US06080833
6,6'-dihydroxy-3,3,3',3'-tetramethyl-1,1'-spirobiindan;
7,7'-dihydroxy-3,3',4,4'-tetrahydro-4,4,4',4'-tetramethyl-2,2'-spirobi(2H-1-benzopyrane); trans-2,3-bis(4'-hydroxyphenyl)-2-butene; 9,9-bis(4'-hydroxyphenyl)fluorene; 3,3-bis(4'-hydroxyphenyl)-2-butanone; 1,6-bis(4'-hydroxyphenyl)-1,6-hexanedione; α,α,α',α'-tetramethyl-α,α'-bis(4-hydroxyphenyl)-p-xylene; α,α,α',α'-tetramethyl-α,α'-bis (4-hydroxyphenyl)-m-xylene; 4,4'-dihydroxybiphenyl; hydroquinone; and resorcinol.

reactant | 7,7'-dihydroxy-3,3',4,4'-tetrahydro-4,4,4',4'-tetramethyl-2,2'-spirobi(2H-1-benzopyrane) | OC1=CC2=C(C(CC3(O2)OC2=C(C(C3)(C)C)C=CC(=C2)O)(C)C)C=C1 | C21H24O4
reactant | 9,9-bis(4'-hydroxyphenyl)fluorene | OC1=CC=C(C=C1)C1(C2=CC=CC=C2C=2C=CC=CC12)C1=CC=C(C=C1)O | C25H18O2
reactant | 3,3-bis(4'-hydroxyphenyl)-2-butanone | OC1=CC=C(C=C1)C(C(C)=O)(C)C1=CC=C(C=C1)O | C16H16O3
reactant | 1,6-bis(4'-hydroxyphenyl)-1,6-hexanedione | OC1=CC=C(C=C1)C(CCCCC(=O)C1=CC=C(C=C1)O)=O | C18H18O4
reactant | α,α,α',α'-tetramethyl-α,α'-bis(4-hydroxyphenyl)-p-xylene | CC(C1=CC=C(C=C1)C(C1=CC=C(C=C1)O)(C)C)(C1=CC=C(C=C1)O)C | C24H26O2
reactant | α,α,α',α'-tetramethyl-α,α'-bis (4-hydroxyphenyl)-m-xylene | CC(C1=CC(=CC=C1)C(C1=CC=C(C=C1)O)(C)C)(C1=CC=C(C=C1)O)C | C24H26O2
reactant | 4,4'-dihydroxybiphenyl | OC1=CC=C(C=C1)C1=CC=C(C=C1)O | C12H10O2
reactant | hydroquinone | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | resorcinol | C1(O)=CC(O)=CC=C1 | C6H6O2
product | 6,6'-dihydroxy-3,3,3',3'-tetramethyl-1,1'-spirobiindan | OC1=CC=C2C(CC3(C2=C1)CC(C1=CC=C(C=C13)O)(C)C)(C)C | C21H24O2
